US09062032B2
By using 400 mg of 2-{[3-(chloromethyl)benzoyl]amino}-N-[4-(pyridin-4-ylmethyl)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide and 819 mg of ethyl 4-(cyclopropylamino)cyclohexanecarboxylate, the alkylation similar to Preparation Example 30 was performed, and then hydrolysis was performed under the conditions similar to Example 5, thereby obtaining 261 mg of 4-(cyclopropyl{3-[(3-{[4-(pyridin-4-ylmethyl)phenyl]carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl)carbamoyl]benzyl}amino)cyclohexane carboxylic acid dihydrochloride.

reactant | 2-{[3-(chloromethyl)benzoyl]amino}-N-[4-(pyridin-4-ylmethyl)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 400 mg | ClCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CC2=CC=NC=C2)CCCC3)C=CC1 | C29H26ClN3O2S
reactant | ethyl 4-(cyclopropylamino)cyclohexanecarboxylate | 819 mg | C1(CC1)NC1CCC(CC1)C(=O)OCC | C12H21NO2
product | 4-(cyclopropyl{3-[(3-{[4-(pyridin-4-ylmethyl)phenyl]carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl)carbamoyl]benzyl}amino)cyclohexane carboxylic acid dihydrochloride | 261 mg | Cl.Cl.C1(CC1)N(C1CCC(CC1)C(=O)O)CC1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)CC1=CC=NC=C1)=O)CCCC2)=O | InChI=1S/C39H42N4O4S.2ClH/c44-36(29-5-3-4-27(23-29)24-43(32-16-17-32)31-14-10-28(11-15-31)39(46)47)42-38-35(33-6-1-2-7-34(33)48-38)37(45)41-30-12-8-25(9-13-30)22-26-18-20-40-21-19-26;;/h3-5,8-9,12-13,18-21,23,28,31-32H,1-2,6-7,10-11,14-17,22,24H2,(H,41,45)(H,42,44)(H,46,47);2*1H
